US05716756
1-Cyano-1-phenyl-2,2,2-trifluoroethanol was prepared from α,α,α-trifluoroacetophenone by a cyanohydrin reaction with potassium cyanide.

reactant | α,α,α-trifluoroacetophenone | FC(C(=O)C1=CC=CC=C1)(F)F | C8H5F3O
reactant | potassium cyanide | [C-]#N.[K+]
product | 1-Cyano-1-phenyl-2,2,2-trifluoroethanol | C(#N)C(C(F)(F)F)(O)C1=CC=CC=C1 | C9H6F3NO
